US04792616
by using 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenoxy-acetyl chloride and diethyl 2-hydroxyethylphosphonate there is obtained diethyl 2-[[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenoxy]acetoxy]-ethylphosphonate, 1H-NMR (CDCl3, 400 MHz) 7.96 ppm (d, 1H), 7.80 ppm (d, 1H), 7.59 ppm (q, 1H), 7.21 ppm (d, 1H), 6.71 ppm (d, 1H), 6.52 ppm (q, 1H), 4.78 ppm (s, 2H), 4.45 ppm (m, 2H), 4.12 ppm (m, 4H), 2.17 ppm (m, 2H), 1.33 ppm (tt, 6H);

reactant | 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenoxy-acetyl chloride | ClC1=C(OC=2C=CC(=C(OCC(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H8Cl2F3NO5
reactant | diethyl 2-hydroxyethylphosphonate | OCCP(OCC)(OCC)=O | C6H15O4P
product | diethyl 2-[[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenoxy]acetoxy]-ethylphosphonate | ClC1=C(OC=2C=CC(=C(OCC(=O)OCCP(OCC)(OCC)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C21H22ClF3NO9P
